Name:  ___                      Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
shortness of breath, lightheadedness
 
Major Surgical or Invasive Procedure:
Direct current cardioversion

 
History of Present Illness:
Mr. ___ is a ___ with history of atrial  
fibrillation/atrial flutter, non-ischemic cardiomyopathy (Ef 
40%), aortic and mitral regurgitation and aortic aneurysm s/p 
Bentall procedure and AVR on ___ who presented with shortness 
of breath and lightheadedness. He was seen in the cardiology 
clinic by Dr. ___ on ___ during that visit, his 
amiodarone was discontinued and his metoprolol dose was 
decreased from 50mg TID to 50mg daily of succinate. He reports 
over the last 2 days he has had worsening shortness of breath 
and he has become very lightheaded to the point of almost 
fainting. No LOC. He denies any fevers, chills, nausea, 
vomiting, diaphoresis, chest pain or cough.  
In the ED: initial vitals were: 98.1 132 137/94 18 100% ra. EKG 
showed atrial fibrillation. CXR did not show any acute 
cardiopulmonary process. Bedisde TTE did not show any 
pericardial effusion. He was evaluated by ___ who felt his was 
stable from cardiosurgery standpoint. Cardiology saw patient in 
the ED and recommended metoprolol, amiodarone and admission for 
___.  
On the floor patient reports feeling short of breath but 
otherwise feel okay.  
 
Past Medical History:
Dilated aortic sinuses with severe aortic insufficiency  
Bentall procedure with mechanical valve (___)  
H/O. Intermittent atrial fibrillation  
Non-ischemic cardiomyopathy with EF of 40%  
Mitral Regurgitation  
Aortic Anurysym  
Parapsoriasis  
 
Social History:
___
Family History:
No history of congenital cardiomyopathies
 
Physical Exam:
ADMISSION EXAM:  
Vitals: 98.3 125/91 126 97%RA  
GENERAL: NAD, awake and alert  
HEENT: MMM  
NECK: supple, no LAD, JVD around 10cm  
CARDIAC: RRR, nl S1 S2, no MRG  
LUNG: Few crackles in the lower lung bases. No accessory muscle 
use  
ABDOMEN: +BS, soft, non-tender, non-distended, no rebound  
EXT: warm and well-perfused, no edema 

DISCHARGE EXAM:
Vitals: 97.8 120s/70s-90s ___ 97%RA, wt 75 kg standing
I/O ___  
GENERAL: NAD, awake and alert  
HEENT: MMM  
NECK: supple, no LAD, JVD around 7cm  
CARDIAC: RRR, nl S1 S2, no MRG  
LUNG: CTAB.
ABDOMEN: soft, non-tender, non-distended  
EXT: warm and well-perfused, trace edema  
 
Pertinent Results:
LABS:
============
___ 02:50PM BLOOD WBC-6.9 RBC-3.95* Hgb-12.2* Hct-36.6* 
MCV-93 MCH-30.8 MCHC-33.3 RDW-14.7 Plt ___
___ 02:50PM BLOOD Neuts-67.4 ___ Monos-5.7 Eos-3.4 
Baso-0.5
___ 05:45AM BLOOD WBC-5.6 RBC-3.89* Hgb-11.7* Hct-36.3* 
MCV-94 MCH-30.0 MCHC-32.1 RDW-14.2 Plt ___
___ 04:25PM BLOOD ___ PTT-36.4 ___
___ 02:50PM BLOOD Glucose-94 UreaN-23* Creat-1.5* Na-140 
K-4.9 Cl-106 HCO3-21* AnGap-18
___ 05:45AM BLOOD Glucose-82 UreaN-22* Creat-1.0 Na-139 
K-3.9 Cl-107 HCO3-22 AnGap-14
___ 02:50PM BLOOD ALT-50* AST-89* AlkPhos-79 TotBili-0.3
___ 05:45AM BLOOD ALT-63* AST-70* LD(LDH)-295* AlkPhos-78 
TotBili-0.4
___ 02:50PM BLOOD Lipase-38
___ 02:50PM BLOOD proBNP-2436*
___ 02:50PM BLOOD Albumin-4.2 Calcium-9.2 Phos-4.8* Mg-2.1
___ 05:45AM BLOOD Albumin-3.9 Calcium-8.6 Phos-3.8 Mg-2.0
___ 02:50PM BLOOD TSH-3.1
___ 02:55PM BLOOD Lactate-1.___ with history of atrial fibrillation/atrial flutter, 
non-ischemic cardiomyopathy (Ef 40%), aortic and mitral 
regurgitation and aortic aneurysm s/p Bentall procedure and AVR 
on ___ who presented with shortness of breath and 
lightheadedness and found to be in atrial flutter/afib with RVR. 
 

# Atrial Flutter/Fibrillation with RVR: Likely in the setting of 
coming off of amiodarone. Before cardioversion he was in 
Aflutter with 2:1 and 3:1 block. He was cardioverted to NSR, and 
his amiodarone was restarted at 400mg daily. This dose should be 
continued for 1 month before going back to 200mg daily. If his 
Aflutter recurs, consultation with EP regarding ablation should 
be considered. Continued home metoprolol XL 50 and coumadin with 
INR goal 2.5-3.   

# Shortness of breath: His shortness of breath resolved after 
cardioversion and 2L of diuresis after 20 iv lasix x 1. Was most 
likely CHF exacerbation in the setting of atrial flutter/afib 
with RVR.  

# ___: Resolved. Baseline Cr of 1; 1.5 on admission, now back to 
1.0 after diuresis. Was likely cardiorenal syndrome in the 
setting of CHF. Held home losartan on admission and restarted at 
discharge.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Acetaminophen 650 mg PO Q6H:PRN fever, pain 
2. Aspirin EC 81 mg PO DAILY 
3. Docusate Sodium 100 mg PO BID 
4. ALPRAZolam 0.5 mg PO QHS:PRN insomnia 
5. Clobetasol Propionate 0.05% Cream 1 Appl TP BID 
6. Warfarin 3 mg PO TO BE DOSED DAILY 
7. Furosemide 40 mg PO DAILY 
8. Losartan Potassium 25 mg PO DAILY 
9. Metoprolol Succinate XL 50 mg PO DAILY 

 
Discharge Medications:
1. Acetaminophen 650 mg PO Q6H:PRN fever, pain 
2. ALPRAZolam 0.5 mg PO QHS:PRN insomnia 
3. Docusate Sodium 100 mg PO BID 
4. Losartan Potassium 25 mg PO DAILY 
5. Warfarin 3 mg PO TO BE DOSED DAILY 
For goal INR 2.5 to 3.0. 
6. Aspirin EC 81 mg PO DAILY 
7. Clobetasol Propionate 0.05% Cream 1 Appl TP BID 
8. Furosemide 40 mg PO DAILY 
9. Amiodarone 400 mg PO DAILY 
RX *amiodarone 400 mg 1 tablet(s) by mouth daily w/ food Disp 
#*30 Tablet Refills:*0
10. Metoprolol Succinate XL 50 mg PO DAILY 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Atrial Flutter w/ RVR. 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr ___,

It has been a pleasure taking care of you in the hospital. You 
were admitted for shortness of breath and were found to be in 
atrial flutter. You were treated with cardioversion and your 
amiodarone was restarted. You should follow up with your 
cardiologist as below.

Thank you for allowing us to participate in your care.

Sincerely, 

Your ___ Team
 
Followup Instructions:
___